US07273879B2
Into 3 ml of N,N-dimethylformamide were dissolved 334 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole and 4-fluorobenzyl alcohol, 84 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 1 hour under ice-cooling and for 4 hours at room temperature. The reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 357 mg of 5-(4-fluorobenzyloxy)-3-methylthio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (12)).

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 334 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | sodium hydride | 84 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-(4-fluorobenzyloxy)-3-methylthio-1,2,4-thiadiazole | 357 mg | FC1=CC=C(COC2=NC(=NS2)SC)C=C1 | C10H9FN2OS2
